US08809534B2
To a mixture of methyl 7-bromothieno[3,2-b]pyridine-2-carboxylate (68 mg, 0.25 mmol) and 1-(2-fluoro-5-methylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea (102 mg, 0.28 mmol) in 8 ml of 1,4-dioxane, was added PdCl2(PPh3)2 (10 mg, 0.014 mmol) and 1M Na2CO3 aqueous solution (0.25 ml, 0.5 mmol). The mixture was heated at 70° C. under N2 for 1 hour, cooled to room temperature and poured into 100 ml of water. The brown precipitates were filtered, washed with water and dried to give the crude product, which was purified by silica gel chromatography, eluting with 2-3% MeOH/CHCl3 to give methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylate as light yellow solid. Yield: 30 mg, 28%.

reactant | methyl 7-bromothieno[3,2-b]pyridine-2-carboxylate | 0.25 mmol, 68 mg | BrC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6BrNO2S
reactant | 1-(2-fluoro-5-methylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 0.28 mmol, 102 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H24BFN2O3
reactant | Na2CO3 | 0.5 mmol, 1M, 0.25 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.014 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylate | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)C1=C2C(=NC=C1)C=C(S2)C(=O)OC | C23H18FN3O3S
